US06852731B2
2-Chloro-1-pyrimidin-2-ylethanol
2-Chloro-1-pyrimidin-2-ylethanone (6.15 g, 39.3 mmol) was dissolved in ethanol (125 ml) and CeCl3.7H2O (14.64 g, 39.3 mmol) was added. Stirring was continued for 10 min then sodium borohydride (1.49 g, 39.3 mmol) was added over 2 min. After 1 hr the solid was filtered and the filtrate evaporated. Sat. ammonium chloride solution (25 ml) was added followed by brine (250 ml) and the mixture adjusted to pH3-4 with 1N.HCl. Extraction with ethyl acetate (3×250 ml) afforded an amber oil which was chromatographed over silica gel (150 g) to give the product as a pale yellow oil (3.85 g) Physical characteristics are as follows: Anal. Found: C, 45.08; H, 4.47; N, 17.46.

reactant | 2-Chloro-1-pyrimidin-2-ylethanone | 39.3 mmol, 6.15 g | ClCC(=O)C1=NC=CC=N1 | C6H5ClN2O
reactant | sodium borohydride | 39.3 mmol, 1.49 g | [BH4-].[Na+]
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 2-Chloro-1-pyrimidin-2-ylethanol | 3.85 g | ClCC(O)C1=NC=CC=N1 | C6H7ClN2O
